US06340759B1
Synthesis of 1-(1-ethylpiperazin-4-yl)-3-[(1-hydroxypropyl)thiazol-5-yl]isoquinoline dihydrochloride
1-(1-Ethylpiperazin-4-yl)-3-(2-formylthiazol-5-yl)isoquinoline (205 mg) was dissolved in tetrahydrofuran (2 ml), 1M ethylmagnesium bromide/tetrahydrofuran solution (0.26 ml) was added thereto under ice-cooling. The resulting mixture was stirred overnight. An aqueous solution of saturated ammonium chloride was added to the reaction solution, which was then extracted with ethyl acetate. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (toluene/acetone system). The resulting product was converted into a hydrochloride in a conventional manner, and then solidified by adding ether thereto, to give the hydrochloride of the title compound as a brown amorphous (20 mg, yield; 23%).

reactant | 1-(1-Ethylpiperazin-4-yl)-3-(2-formylthiazol-5-yl)isoquinoline | 205 mg | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CN=C(S1)C=O | C19H20N4OS
reactant | ethylmagnesium bromide tetrahydrofuran | 1M, 0.26 ml | C(C)[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(1-ethylpiperazin-4-yl)-3-[(1-hydroxypropyl)thiazol-5-yl]isoquinoline dihydrochloride | Cl.Cl.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CN=C(S1)C(CC)O | InChI=1S/C21H26N4OS.2ClH/c1-3-18(26)21-22-14-19(27-21)17-13-15-7-5-6-8-16(15)20(23-17)25-11-9-24(4-2)10-12-25;;/h5-8,13-14,18,26H,3-4,9-12H2,1-2H3;2*1H
